US06316438B1
3-Ethyl-7,8-dihydro-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine-6,9-dione
An alternative method could be used by starting with 1-ethyl-1H-pyrazolo[3,4-b]pyridine-4,5-dicarboxylic acid. The diacid was dissolved in anhydrous THF with EDAC.HCl (1.2 eq), HOBT (1.2 eq), and triethylamine (5.0 eq). To this solution was added anhydrous hydrazine (2.0 eq). The resulting solution was stirred at rt for 5 h and then diluted with water. The precipitated solid was collected by filtration to afford the title compound as a white solid.

reactant | 1-ethyl-1H-pyrazolo[3,4-b]pyridine-4,5-dicarboxylic acid | C(C)N1N=CC=2C1=NC=C(C2C(=O)O)C(=O)O | C10H9N3O4
reactant | EDAC.HCl | 1.2 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | hydrazine | 2.0 eq | NN | H4N2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Ethyl-7,8-dihydro-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine-6,9-dione | C(C)N1N=CC2=C1N=CC=1C(NNC(C12)=O)=O | C10H9N5O2
